### PR TITLE
rt crefine: prove several lemmas related to the endpoint and ntfn queues

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This is the final PR for the work related to the new handling of the endpoint and notification queues, and includes proofs for many sorries (and removing several others that are no longer relevant), bringing the sorry count for MCS CRefine down to 4. The previous PRs are https://github.com/seL4/l4v/pull/978 (for ASpec + AInvs) and https://github.com/seL4/l4v/pull/986 (for Haskell + Refine).

I would recommend reviewing the files in the order in which they would appear in the Isabelle session.

Please see the C branch linked below for the associated changes for the C. The branch is the branch used for the seL4 PR for the IPC queues changes, https://github.com/seL4/seL4/pull/1576, and then includes two already merged commits for `suspend` and `scheduleTCB`, and finally has another commit for some small refactors. I will make a PR for the final commit once we're happy with this PR.

Test with: seL4/seL4@michaelm/ipc_queues_mcs_testing

The following is from the commit message:

Prove

  - cancelAllIPC_ccorres
  - cancelAllSignals_ccorres
  - sendIPC_ccorres
  - receiveIPC_ccorres
  - receiveSignal_ccorres
  - setPriority_ccorres

and remove several sorries that are no longer relevant.

### CODE REVIEW

File: proof/crefine/RISCV64/StateRelation_C.thy [hunk 1]
```diff
@@ -509,41 +501,47 @@ definition creply_relation :: "Structures_H.reply \<Rightarrow> reply_C \<Righta
...
        = (callStackPtr_CL \<circ> call_stack_lift \<circ> replyNext_C) creply"
 
-abbreviation
-  "ep_queue_relation' \<equiv> tcb_queue_relation' tcbEPNext_C tcbEPPrev_C"
+definition cendpoint_state_relation :: "epstate \<Rightarrow> machine_word \<Rightarrow> bool " where
+  "cendpoint_state_relation st cstate \<equiv>
+       case st of
+     IdleEPState \<Rightarrow> cstate = scast EPState_Idle
+   | SendEPState \<Rightarrow> cstate = scast EPState_Send
+   | ReceiveEPState \<Rightarrow> cstate = scast EPState_Recv"
```
Comment (lsf37) [inline proof/crefine/RISCV64/StateRelation_C.thy]: Indent is off on this one

File: proof/crefine/RISCV64/ADT_C.thy [hunk 2]
```diff
@@ -903,60 +887,98 @@ lemma cpspace_tcb_relation_unique:
...
-  shows   "map_to_eps ah' = map_to_eps ah"
-  apply (rule cmap_relation_unique[OF inj_Ptr _ assms])
-  apply (clarsimp simp: EPState_Idle_def EPState_Recv_def EPState_Send_def
-             cendpoint_relation_def Let_def tcb_queue_rel'_clift_unique
-           split: endpoint.splits)
+  assumes eps: "cpspace_ep_relation (ksPSpace as) ch"
+               "cpspace_ep_relation (ksPSpace as') ch"
+  assumes qs: "cross_valid_eps' as" "cross_valid_eps' as'"
+  shows   "map_to_eps (ksPSpace as) = map_to_eps (ksPSpace as')"
+  using assms
```
Comment (lsf37) [inline proof/crefine/RISCV64/ADT_C.thy]: If you're doing `using assms` you don't need to give the assumptions individual names

File: proof/crefine/RISCV64/ADT_C.thy [hunk 3]
```diff
@@ -1477,28 +1509,45 @@ lemma ksPSpace_eq_imp_valid_pspace'_eq:
                      ksPSpace_eq_imp_valid_objs'_eq[OF ksPSpace]
                      valid_replies'_def pred_tcb_at'_def obj_at_simps)
 
+definition cross_valid_objs' :: "kernel_state \<Rightarrow> bool" where
+  "cross_valid_objs' \<equiv>
+     cross_valid_tcbs' and cross_valid_sched_contexts' and cross_valid_eps' and cross_valid_ntfns'"
+
+lemma ksPSpace_eq_imp_cross_valid_objs'_eq:
+  assumes ksPSpace: "ksPSpace s' = ksPSpace s"
```
Comment (lsf37) [inline proof/crefine/RISCV64/ADT_C.thy]:
```suggestion
  assumes "ksPSpace s' = ksPSpace s"
```

File: proof/crefine/RISCV64/Detype_C.thy [hunk 4]
```diff
@@ -1646,7 +1459,7 @@ proof -
   assume al: "is_aligned ptr bits"
     and cte: "cte_wp_at' (\<lambda>cte. cteCap cte = UntypedCap d ptr bits idx) p s"
     and desc_range: "descendants_range' (UntypedCap d ptr bits idx) p (ctes_of s)"
-    and invs: "invs' s" and "ct_active' s" and "valid_idle' s"
+    and invs: "invs' s" and "ct_active' s" and "valid_idle' s" "if_live_then_nonz_cap' s"
```
Comment (lsf37) [inline proof/crefine/RISCV64/Detype_C.thy:1462]: How is the new `if_live_then_nonz_cap'` assumption used? (it doesn't have a name and I don't see it referenced as a literal fact). Could it be left out or is it used implicitly somewhere?

Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Detype_C.thy:1462]: This is used in the interpretation of `delete_locale` just below.

File: proof/crefine/RISCV64/Refine_C.thy [hunk 5]
```diff
@@ -999,6 +977,90 @@ lemma check_active_irq_corres_C:
    apply (wp|simp)+
   done
 
+lemma cross_valid_tcbs'_cross:
+  "\<lbrakk>pspace_relation (kheap s) (ksPSpace s'); valid_objs s;
+    pspace_aligned s; pspace_distinct s; no_0_obj' s'\<rbrakk>
+   \<Longrightarrow> cross_valid_tcbs' s'"
```
Comment (lsf37) [inline proof/crefine/RISCV64/Refine_C.thy:983]: These `cross_x` predicates are interesting, I don't think we have done this before and it looks like a pretty good idea to me. Instead of trying to match up some combination of existing concrete predicates, just define what the interesting part of the image of the abstract one is and then use that. I like it.

File: proof/crefine/RISCV64/Finalise_C.thy [hunk 6]
```diff
@@ -781,343 +548,629 @@ lemma refill_unblock_check_ccorres:
...
+
+lemma ccorres_pre_getEndpoint:
+  assumes cc: "\<And>rv. ccorres r xf (P rv) (P' rv) hs (f rv) c"
+  shows   "ccorres r xf
+           (\<lambda>s. \<forall>ep. ko_at' ep p s \<longrightarrow> P ep s)
+           ({s'. \<forall>ep s. (s, s') \<in> rf_sr \<and> ko_at' ep p s \<longrightarrow> s' \<in> P' ep})
+           hs (getEndpoint p >>= (\<lambda>rv. f rv)) c"
+  apply (rule ccorres_guard_imp)
+    apply (rule ccorres_symb_exec_l)
+       defer
```
Comment (lsf37) [inline proof/crefine/RISCV64/Finalise_C.thy:562]: can we reorder the proof to avoid the `defer` (another one a bit further down) or is the ordering necessary for instantiating something?

Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Finalise_C.thy:562]: This is a copy paste job from the other kernel objects that have analogous rules. I could fix this one up, but they're all exactly the same. Should I just do this one or do them all? The `ccorres_lemma2/3/4` proofs are probably just as bad for all the kernel objects.

File: proof/crefine/RISCV64/IpcCancel_C.thy [hunk 7]
```diff
@@ -750,40 +512,38 @@ lemma rf_sr_tcb_update_twice:
...
-     (\<lambda>s. tcb_at' tcbPtr s
-          \<and> (tcbQueueHead queue \<noteq> None \<longleftrightarrow> tcbQueueEnd queue \<noteq> None)
-          \<and> (\<forall>head. tcbQueueHead queue = Some head \<longrightarrow> tcb_at' head s))
+     (tcb_at' tcbPtr)
      (\<lbrace>ctcb_queue_relation queue \<acute>queue\<rbrace> \<inter> \<lbrace>\<acute>tcb = tcb_ptr_to_ctcb_ptr tcbPtr\<rbrace>) hs
      (tcbQueuePrepend queue tcbPtr) (Call tcb_queue_prepend_'proc)"
-  (is "ccorres _ _ ?abs _ _ _ _")
   supply if_split[split del]
+  unfolding tcbQueuePrepend_def
+  apply (rule ccorres_symb_exec_l'[OF _ _ stateAssert_sp]; (solves wpsimp)?)
```
Comment (lsf37) [inline proof/crefine/RISCV64/IpcCancel_C.thy:525]: Is worth making `ccorres_symb_exec_l'[OF _ _ stateAssert_sp]` a separate rule (i.e. give it a name)? We're using that one quite a bit, and the forward style does make sense for the initial asserts in a function.

Comment (lsf37) [reply proof/crefine/RISCV64/IpcCancel_C.thy:525]: (doesn't have to be now, could be a separate PR, probably something we want in master as well)

Comment (michaelmcinerney) [reply proof/crefine/RISCV64/IpcCancel_C.thy:525]: It might be worth doing. I normally would use this line along with a few others where I replace `stateAssert_sp` with some other strongest postcondition rule for `assert` or `threadGet` or whatever. So in practical terms, the new rule wouldn't really be helping things much. Making it a separate rule might encourage others to do the same, which, if you don't mind or do like this pattern, could be a good thing.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 8]
```diff
@@ -4855,105 +4851,199 @@ lemma find_time_after_ccorres:
...
+  shows
+    "ccorres r xf
+       (\<lambda>s. \<forall>rv. ksReleaseQueue s = rv \<longrightarrow> P rv s)
+       {s'. \<forall>rv s. (s, s') \<in> rf_sr \<and> ksReleaseQueue s = rv \<and> P rv s
+                    \<and> ctcb_queue_relation rv (ksReleaseQueue_' (globals s'))
+                   \<longrightarrow> s' \<in> P' rv} hs
+       (getReleaseQueue >>= (\<lambda>rv. f rv)) c"
+  apply (rule ccorres_guard_imp)
+    apply (rule ccorres_symb_exec_l)
+       defer
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy:4870]: same as the other one: would a reorder be possible to avoid the `defer`?

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 9]
```diff
@@ -5778,559 +5447,896 @@ lemma reply_push_ccorres:
...
+lemma tcb_queue_C_eq:
+  "\<lbrakk>head_C q = head_C q'; end_C q = end_C q'\<rbrakk> \<Longrightarrow> q = q'"
+  by (metis tcb_queue_C_idupdates(1))
 
-         apply (rule getThreadState_ccorres_foo)
-         apply (rename_tac recvState)
-         apply (rule ccorres_assert)
-         apply (ctac(no_vcg))
+(* FIXME RT: move? Keep? Currently unused *)
+lemma bind_assoc_group5:
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: if it's unused, we should remove this one. It's not a nice lemma, and if we really really need it later, we can prove it again then.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 10]
```diff
@@ -5778,559 +5447,896 @@ lemma reply_push_ccorres:
...
-     apply clarsimp
-    apply (frule(1) sym_refs_obj_atD'[OF _ invs_sym'])
-    apply (frule simple_st_tcb_at_state_refs_ofD')
-    apply (case_tac ep, auto simp: st_tcb_at_refs_of_rev' st_tcb_at'_def
-                                   obj_at'_def projectKOs)[1]
-   apply (clarsimp simp: guard_is_UNIV_def)
-  apply (clarsimp simp: guard_is_UNIV_def)
-  done *)
+\<comment> \<open>FIXME RT: a specialisation of @{thm bind_assoc_group5}. Keep? Rename?\<close>
+lemma bind_assoc_group5':
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: (if also unused, then also remove)

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 11]
```diff
@@ -5778,559 +5447,896 @@ lemma reply_push_ccorres:
...
+       apply (rule ccorres_cond_true)
+       apply (rule ccorres_cond[where R=\<top>])
+         apply (clarsimp split: if_splits)
+        apply (intro ccorres_rhs_assoc)
+        apply (rule ccorres_rhs_assoc2)
+        apply (rule ccorres_rhs_assoc2)
+        apply (rule ccorres_rhs_assoc2)
+        apply (rule ccorres_rhs_assoc2)
+        apply (rule ccorres_rhs_assoc2)
+        apply (rule ccorres_rhs_assoc2)
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: I assume just `(rule ccorres_rhs_assoc2)+` is not going to work. A comment what we're trying to achieve (which statement we're targeting) would be good here. Also consider `repeat`, i.e. `(repeat 6 <rule ccorres_rhs_assoc2)`.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 12]
```diff
@@ -5778,559 +5447,896 @@ lemma reply_push_ccorres:
...
-                           update_ep_map_tos)
-         apply (clarsimp simp: carch_state_relation_def packed_heap_update_collapse_hrs)
-        apply (simp add: cmachine_state_relation_def)
-       apply (simp add: typ_heap_simps')
-      apply (simp add: objBits_simps')
-     apply (simp add: objBits_simps)
-    apply assumption
-   apply (clarsimp simp: cendpoint_relation_def Let_def tcb_queue_relation'_def)
-  \<comment> \<open>non-empty case\<close>
+    apply (prop_tac "epptr = epptr AND NOT (mask 4)")
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy:6279]: what's 4?

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 10 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy]: Sadly, this one is used. When I was wondering whether we should keep, I suppose I was wondering whether we should find another way to tackle the problem that this is used to solve. I forget the details now but I can look into it if you would like.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 13]
```diff
@@ -5778,559 +5447,896 @@ lemma reply_push_ccorres:
...
+                      apply (rule_tac Q="valid_bound_reply' (replyObject recvState) and no_0_obj'"
+                                   in ccorres_cond_both'[where Q'="\<top>"])
+                        apply (fastforce simp: valid_bound_obj'_def option_to_0_def
+                                        split: if_splits option.splits)
+                       apply clarsimp
+                       apply (drule Some_to_the)
+                       apply (fastforce intro: ccorres_call[OF reply_unlink_ccorres])
+                      apply (rule ccorres_return_Skip)
+                     apply ceqv
+                    apply (rule ccorres_symb_exec_l3, rename_tac scOptDest)
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy:6056]: comment what we're targeting with `ccorres_symb_exec_l3` would be good. For understanding, but also to get sync points when things break later.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 14]
```diff
@@ -6998,468 +6965,670 @@ lemma maybeReturnSchedContext_ccorres:
   apply (fastforce dest: ntfn_ko_at_valid_objs_valid_ntfn' simp: valid_ntfn'_def)
   done
 
+lemma receiveIPC_block_ccorres_helper:
+  "ccorres dc xfdc
+     (tcb_at' thread and valid_objs' and no_0_obj' and pspace_canonical'
+      and pspace_aligned' and pspace_distinct' and ep_at' epptr and valid_bound_reply' replyOpt
+      and (\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s)
+      and K (epptr = epptr && ~~ mask 4)
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: here is 4 again. Would be good to give this a symbolic name. Sounds like ep_bits alignment or similar. When we're porting this to other architectures, the number will change and it will be annoying to update.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 15]
```diff
@@ -6998,468 +6965,670 @@ lemma maybeReturnSchedContext_ccorres:
...
-        apply (simp add: cmachine_state_relation_def)
-       apply (simp add: h_t_valid_clift_Some_iff)
-      apply (simp add: objBits_simps')
-     apply (simp add: objBits_simps)
-    apply assumption
-   apply (clarsimp simp: cnotification_relation_def Let_def
-                         tcb_queue_relation'_def)
-  \<comment> \<open>non-empty case\<close>
+                  apply (intro ccorres_rhs_assoc)
+                  apply (csymbr, csymbr, csymbr, csymbr, csymbr, csymbr)
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: I would propose (repeat 6 csymbr)

Comment (lsf37) [reply proof/crefine/RISCV64/Ipc_C.thy]: or even consider `csymbr+ ` if that works. Debatable if that's really better, it could break in surprising ways in the future, but it could also absorb small change.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 16]
```diff
@@ -7621,610 +7796,443 @@ lemma sendSignal_ccorres[corres]:
...
      (Call receiveSignal_'proc)"
-  unfolding K_def
-  supply if_cong[cong] option.case_cong[cong]
-  apply (rule ccorres_gen_asm)
-  apply (cinit lift: thread_' cap_' isBlocking_')
-   apply (rule ccorres_stateAssert)+
-   apply (rule ccorres_pre_getNotification, rename_tac ntfn)
+  supply Collect_const[simp del]
+  apply (rule ccorres_grab_asm)
+  unfolding receiveSignal_def K_bind_def haskell_assert_def return_bind
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]:
```suggestion
  unfolding receiveSignal_def K_bind_def haskell_assert_def return_bind
  apply (rule ccorres_grab_asm)
```

Comment (lsf37) [reply proof/crefine/RISCV64/Ipc_C.thy]: I'd even put the `supply` below the `unfolding` actually. `unfolding` is more a suffix to the lemma statement, leading into the proof. The further it is away from the statement the stranger it looks.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 17]
```diff
@@ -7621,610 +7796,443 @@ lemma sendSignal_ccorres[corres]:
...
+  apply (rule ccorres_symb_exec_l'[OF _ _ stateAssert_sp]; (solves wpsimp)?)+
+  apply (rule ccorres_symb_exec_l'[OF _ _ isRunnable_sp]; (solves wpsimp)?)
+  apply (rule ccorres_symb_exec_l'[OF _ _ assert_sp]; (solves wpsimp)?)
+  apply (rule ccorres_symb_exec_l'[OF _ _ stateAssert_sp]; (solves wpsimp)?)+
+  apply (rule ccorres_symb_exec_l'[OF _ _ get_ntfn_sp']; (solves wpsimp)?)
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy:8053]: I'm tempted to wrap this up into a method that tries various `ccorres_symb_exec_l'[OF _ _ X]; solves wpsimp` for a specific set of rules `X`. Would that make sense? It's not always going to work, but it could work often enough to be useful.

**Review by lsf37 — APPROVED** [review]
Very nice! This could have been multiple 10k lines of new terrible proof, instead it solves a whole bunch of sorries and deletes about 2k lines of previous proof. Some of the IPC proofs are still very large, but there's no way around the additional MCS complexity there that I see.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 17 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy:8053]: That would make sense. It would be a `ccorres` analogue of the oft-mentioned `sp` method for Hoare triples. 

I think I sometimes have to add an extra `unfolding K_bind_apply` or something to get it working. 

I really like this approach, personally. I think when I first started to use it, you were sceptical because you didn’t want to mess with things before the first `cinit` but I’m always careful to use `unfolding` or `simp only:`.

File: proof/crefine/RISCV64/Finalise_C.thy (hunk 6 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Finalise_C.thy:562]: Have a look if it is actually possible. It might be that the `wp` needs to instantiate the precondition first. If it is possible, we would ideally do all of them before we start porting to other architectures.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 16 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy]: Sure, I can do that. 

Putting `unfolding` before `supply` to me does sound strange because `supply` “only” changes the proof context (if that’s the right terminology) and leaves the proof state unchanged, whereas `unfolding` of course does change the proof state. But that’s just my random musings.

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 7 above)
Comment (lsf37) [reply proof/crefine/RISCV64/IpcCancel_C.thy:525]: Yes, I saw the pattern further down. It looks like a method would make more sense. Then it's just one of multiple things to try. I'm happy with the pattern as such. It does make sense at function entry.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 17 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Ipc_C.thy:8053]: Yes, as long as we keep it to a controlled `rule ccorres_symb_exec_l'` and `(solves ..)?` it's safe to use. One more reason to wrap it up into a method -- makes it easier to keep the common case safe :-)

The method doesn't have to cover all cases, just most or even just many. I'm not sure if that works, but it's possible that we can even have a named_theorems set for the set of things to try.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 16 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Ipc_C.thy]: I guess part of that is historical. `unfolding` is an old Isar command that was added to avoid a common case of explicit `apply (unfold ..)` at the beginning of Isar proofs. `supply` is more recent and was specifically added to make a `note`-like construct available in apply proofs, so to me it's just a pure `apply` style thing, whereas `unfolding` is an Isar concept.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 10 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Ipc_C.thy]: Ok, if it's used, we do need to keep it. We can move it to Lib, although not urgent. If we can prove the `'` version without the other one, we should do that.

File: proof/crefine/RISCV64/Finalise_C.thy (hunk 6 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Finalise_C.thy:562]: For after I’ve figured out if it can be improved, should I do this for all the kernel objects in a separate cleanup PR? Or just for the new lemmas I’ve added here within this PR?

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 17 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy:8053]: Should we merge this PR, and then I can write a little method and use it wherever we have this pattern? It would be used in many other places than in just this PR.

Comment (lsf37) [reply proof/crefine/RISCV64/Ipc_C.thy:8053]: Yes, let's do that.

File: proof/crefine/RISCV64/Finalise_C.thy (hunk 6 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Finalise_C.thy:562]: As long as we end up with all of them being cleaned up, I don't mind which way.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 15 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy]: `csymbr+` doesn't work, so I've gone with `repeat 6 csymbr`

File: proof/crefine/RISCV64/SchedContext_C.thy [hunk 18]
```diff
@@ -1055,7 +1053,7 @@ crunch replyFromKernel, schedContextUpdateConsumed
 lemma invokeSchedContext_Consumed_ccorres:
   "ccorres ((intr_and_se_rel \<circ> Inr) \<currency> dc) (liftxf errstate id (K ()) ret__unsigned_long_')
      (invs' and (\<lambda>s. ksCurThread s = thread) and ct_in_state' ((=) Restart)
-      and (\<lambda>s. sch_act_wf (ksSchedulerAction s) s))
+      and (\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s))
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/SchedContext_C.thy:1056]: I'm curious, do you recall where this weakening came from? It looks like an improvement

Comment (michaelmcinerney) [reply proof/crefine/RISCV64/SchedContext_C.thy:1056]: My guess is that I added `sch_act_wf` during the initial sorrying run and then realised much later that `weak_sch_act_wf` is all we need most of the time. The extra information in `sch_act_wf` can all be crossed. Crossing `weak_sch_act_wf` is annoying because we don't quite have enough in the abstract guards of the `corres` rules to make it seamless. So it's one of the few things I have to carry around everywhere. Luckily it's very basic so it can be `crunch`ed most of the time.

File: proof/crefine/RISCV64/Refine_C.thy [hunk 19]
```diff
@@ -1074,51 +1141,72 @@ lemma refinement2_both:
...
-     apply (erule state_relation_release_queue_relation)
-    apply fastforce
-   apply fastforce
+        apply (erule state_relation_release_queue_relation)
+       apply fastforce
+      apply fastforce
+     apply fastforce
+    apply (clarsimp simp: lift_state_relation_def full_invs_def)
+    apply (rule_tac x=abs_state in exI)
+    apply force
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Refine_C.thy:1201]: wow, force wasn't able to figure out the instantiation?

File: proof/crefine/RISCV64/Refine_C.thy [hunk 20]
```diff
@@ -1074,51 +1141,72 @@ lemma refinement2_both:
...
      apply (clarsimp simp: state_relation_def)
     apply (fastforce simp: ct_running'_C)
-   apply (fastforce simp: full_invs_def full_invs'_def all_invs'_def
-                   intro: resume_cur_thread_cross)
+   apply (clarsimp simp: all_invs'_def)
+   apply (rule_tac x=abstract_state in exI)
+   apply (clarsimp simp: full_invs_def ex_abs_def full_invs'_def all_invs'_def
+                   dest!: resume_cur_thread_cross)
 
   apply (erule_tac P="a \<and> b \<and> c \<and> d \<and> e" for a b c d e in disjE)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Refine_C.thy:1141]: This block looks identical to the block below this one except for the `e` becoming `EX x. e x`. The diff and the fastforce/force combos look the same. Any chance of consolidation, or not worth it?

File: proof/crefine/RISCV64/Refine_C.thy (hunk 19 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy:1201]: Nope, it can't figure it out. I reckon there are some points in this file where we do have other long `force/fastforce`s that could be made much quicker with some instantiations. Or maybe I've reworked them all now.

File: proof/crefine/RISCV64/Refine_C.thy [hunk 21]
```diff
@@ -999,6 +977,90 @@ lemma check_active_irq_corres_C:
...
+  apply clarsimp
+  apply (rename_tac ep)
+  apply (frule state_relation_ep_queues_relation)
+  apply (clarsimp simp: ep_queues_relation_def)
+  apply (drule_tac x=epPtr in spec)
+  apply (drule_tac x="ep_queue ep" in spec)
+  apply (clarsimp simp: opt_map_red eps_of_kh_def)
+  apply (frule list_queue_relation_tcb_queue_head_end_valid)
+   apply (frule_tac p=epPtr in in_ep_queue_sched_flag_set; fastforce simp: opt_map_red eps_of_kh_def)
+  apply fastforce
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Refine_C.thy]: I have to wonder, something about this proof feels very forceful. There's 6 `frule[_tac]`s, and the two dest steps only instantiate foralls. It feels like one should be able to work backwards here, to show that the things required can be derived from the assumptions, i.e. I'd have expected intro rules instead of frules. This question also applies to the other two `_cross` below, especially `cross_valid_objs'_cross` which is nearly all frules.
There might well be a good reason for it, but I wanted to check.

File: proof/crefine/RISCV64/Refine_C.thy (hunk 20 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy:1141]: This proof is really quite horrible. It has had duplication the entire time that I've been working on these proofs (there's duplication on `master`, too) and it's just made worse for MCS since we use crossing way more. I can't see a nice way of getting rid of the duplication. The proof state is very hard to read, unfortunately.

Comment (Xaphiosis) [reply proof/crefine/RISCV64/Refine_C.thy:1141]: In that case, maybe some commentary on the next block that the proof is basically identical to the previous (and if they refer to some specific nameable case, which case it would be)? Will save staring at it

File: proof/crefine/RISCV64/Refine_C.thy (hunk 19 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Refine_C.thy:1201]: Ah, so this also speeds it up?

File: proof/crefine/RISCV64/StateRelation_C.thy [hunk 22]
```diff
@@ -284,7 +276,7 @@ where
 | "cthread_state_relation_lifted (Structures_H.BlockedOnReceive oref cg replyobj) ts'
      = (tsType_CL (fst ts') = scast ThreadState_BlockedOnReceive
         \<and> oref = blockingObject_CL (fst ts')
-        \<and> cg = to_bool (blockingIPCCanGrant_CL (fst ts'))
+        \<and> cg = False
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/StateRelation_C.thy]: this could use a comment, why is cg always False?

File: proof/crefine/RISCV64/Refine_C.thy (hunk 21 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy]: The proof can be made more backwards, removing one instantiation of `spec`, but it's still not great. It takes a bit of wrangling with the state relation to get what I'd like from it, and `ep_queues_relation` has the universal quantifiers over pointers, lists, and head/end queues, which means it needs some hand holding. I'll improve the one for notifications, too.

File: proof/crefine/RISCV64/Refine_C.thy (hunk 19 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Refine_C.thy:1201]: The `force` by itself just doesn't work here.

File: proof/crefine/RISCV64/ADT_C.thy [hunk 23]
```diff
@@ -570,33 +569,24 @@ end
...
-
-
 definition tcb_queue_C_to_tcb_queue :: "tcb_queue_C \<Rightarrow> tcb_queue" where
   "tcb_queue_C_to_tcb_queue q \<equiv>
      HeadEndPtrs (if head_C q = NULL then None else Some (ctcb_ptr_to_tcb_ptr (head_C q)))
                  (if end_C q = NULL then None else Some (ctcb_ptr_to_tcb_ptr (end_C q)))"
 
+lemma tcb_ptr_to_ctcb_ptr_inj:
+  "tcb_ptr_to_ctcb_ptr x = tcb_ptr_to_ctcb_ptr y \<Longrightarrow> x = y"
+  by (auto simp: tcb_ptr_to_ctcb_ptr_def ctcb_offset_def)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/ADT_C.thy]: FIXME move?

Comment (Xaphiosis) [reply proof/crefine/RISCV64/ADT_C.thy]: might even go as high as Wellformed_C

Comment (michaelmcinerney) [reply proof/crefine/RISCV64/ADT_C.thy]: I actually just moved this from somewhere else in this file, but I can put it higher up or add a FIXME move.

File: proof/crefine/RISCV64/Tcb_C.thy [hunk 24]
```diff
@@ -407,67 +411,272 @@ lemma hrs_mem_update_cong:
...
+                else g)"
+  by (cases ts; clarsimp simp: epBlocked_def ntfnBlocked_def)
+
 lemma setPriority_ccorres:
   "ccorres dc xfdc
-     (\<lambda>s. tcb_at' t s \<and> ksCurDomain s \<le> maxDomain
-          \<and> valid_objs' s \<and> weak_sch_act_wf (ksSchedulerAction s) s)
-     ({s. tptr_' s = tcb_ptr_to_ctcb_ptr t} \<inter> {s. prio_' s = ucast priority}) []
+     (\<lambda>s. tcb_at' t s \<and> invs' s \<and> weak_sch_act_wf (ksSchedulerAction s) s)
+     (\<lbrace>\<acute>tptr = tcb_ptr_to_ctcb_ptr t\<rbrace> \<inter> \<lbrace>\<acute>prio = UCAST(8 \<rightarrow> 64) priority\<rbrace>) hs
```
Comment (corlewis) [inline proof/crefine/RISCV64/Tcb_C.thy]: Huh, why is specifying the size of the cast needed now? I don't remember seeing anything that could have lead to that going wrong.

File: proof/crefine/RISCV64/ADT_C.thy [hunk 25]
```diff
@@ -835,10 +806,16 @@ lemma
   using assms
   by (clarsimp simp: valid_tcb'_def obj_at'_def)+
 
+definition cross_valid_tcbs' :: "kernel_state \<Rightarrow> bool" where
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/ADT_C.thy:806]: as we discussed on mattermost, a bit of commentary on these cross predicates would help. what they do is more obvious when reading through this file than when reading Refine_C (seeing as the `cstate_to_pspace_H_correct` lemma to show that the state relation is a function depends on the valid_objs' cross predicate), but if someone jumps in from Refine_C or doesn't read the whole file, it'll be confusing

File: proof/crefine/RISCV64/StateRelation_C.thy (hunk 22 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/StateRelation_C.thy]: This was the result of a very long discussion with Gerwin about six months ago that I have forgotten. I'm sure he has a better recollection of it. I think it was to do with wanting to get rid of this field at some point in the future and so this was the stopgap measure. I'll investigate.

File: proof/crefine/RISCV64/Tcb_C.thy [hunk 26]
```diff
@@ -638,25 +847,47 @@ lemma sch_act_simple_ks_updates[simp]:
   "sch_act_simple (ksDomainTime_update l s) = sch_act_simple s"
   by (clarsimp simp: sch_act_simple_def)+
 
-crunch finaliseCap
-  for sch_act_simple[wp]: sch_act_simple
-  (simp: crunch_simps wp: crunch_wps hoare_drop_imps getObject_inv)
+lemma weak_sch_act_wf_ks_updates[simp]:
+  "weak_sch_act_wf sa (ksArchState_update f s) = weak_sch_act_wf sa s"
```
Comment (corlewis) [inline proof/crefine/RISCV64/Tcb_C.thy]: Would be good to move these to refine

File: proof/crefine/RISCV64/ADT_C.thy [hunk 27]
```diff
@@ -903,60 +887,97 @@ lemma cpspace_tcb_relation_unique:
...
+   apply (rename_tac p x y)
+   apply (rule endpoint.expand)
+   apply (intro conjI)
+    apply (clarsimp simp: endpoint_state_defs cendpoint_relation_def cendpoint_state_relation_def
+                          Let_def
+                   split: epstate.splits)
+   apply (clarsimp simp: cross_valid_eps'_def)
+   apply (drule_tac x=p in spec)+
+   apply (clarsimp simp: cendpoint_relation_def Let_def)
+   apply (erule (1) tcb_queue_unique)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/ADT_C.thy:916]: this could possibly be shorter via `force elim!: tcb_queue_unique` (or auto)

File: proof/crefine/RISCV64/ADT_C.thy [hunk 28]
```diff
@@ -903,60 +887,97 @@ lemma cpspace_tcb_relation_unique:
...
-                  kernel.tcb_at_not_NULL tcb_ptr_to_ctcb_ptr_inj option_to_ptr_def option_to_0_def
-           split: ntfn.splits option.splits) (* ~ 30 seconds *)
+   apply (prop_tac "valid_ntfn' y as")
+    apply (rule valid_objsE')
+      using vs apply fastforce
+     apply (fastforce simp: map_comp_def split: option.splits)
+    apply (clarsimp simp: valid_obj'_def)
+   apply (prop_tac "valid_ntfn' x as'")
+    apply (rule valid_objsE')
+      using vs' apply fastforce
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/ADT_C.thy:961]: a more aesthetic formulation to consider might be `subgoal using vs' by fastforce` (optional)

File: proof/crefine/RISCV64/ADT_C.thy [hunk 29]
```diff
@@ -1477,28 +1508,45 @@ lemma ksPSpace_eq_imp_valid_pspace'_eq:
...
                      valid_replies'_def pred_tcb_at'_def obj_at_simps)
 
+definition cross_valid_objs' :: "kernel_state \<Rightarrow> bool" where
+  "cross_valid_objs' \<equiv>
+     cross_valid_tcbs' and cross_valid_sched_contexts' and cross_valid_eps' and cross_valid_ntfns'"
+
+lemma ksPSpace_eq_imp_cross_valid_objs'_eq:
+  assumes "ksPSpace s' = ksPSpace s"
+  shows "cross_valid_objs' s = cross_valid_objs' s'"
+  using assms
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/ADT_C.thy]: the assumes-shows-using assms combo is a bit redundant, would be better as a one-liner with `==>`

File: proof/crefine/RISCV64/Syscall_C.thy [hunk 30]
```diff
@@ -1767,7 +1765,9 @@ lemma endTimeslice_ccorres:
             apply (ctac add: postpone_ccorres)
            apply wpsimp+
        apply (vcg exspec=refill_ready_modifies)
-      apply (rule_tac Q'="\<lambda>_. no_0_obj' and pspace_aligned' and pspace_distinct' and tcb_at' ct"
+      apply (rule_tac Q'="\<lambda>_. (\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s) and no_0_obj'
+                              and pspace_aligned' and pspace_distinct' and pspace_bounded'
+                              and tcb_at' ct"
```
Comment (corlewis) [inline proof/crefine/RISCV64/Syscall_C.thy:1770]:
```suggestion
      apply (rule_tac Q'="\<lambda>_. (\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s) and no_0_obj'
                                   and pspace_aligned' and pspace_distinct' and pspace_bounded'
                                   and tcb_at' ct"
```

File: proof/crefine/RISCV64/Tcb_C.thy (hunk 24 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Tcb_C.thy]: This can just be made `ucast`, thanks. This proof is from quite a while ago, before I went through this file and made the casting nicer.

File: proof/crefine/RISCV64/ADT_C.thy (hunk 29 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/ADT_C.thy]: This formatting was just copied from other lemmas in this file. I can change this, but the whole file is in need of some major cleanup.

File: proof/crefine/RISCV64/ADT_C.thy (hunk 27 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/ADT_C.thy:916]: They're much slower than what we currently have there. I'd prefer to leave it.

File: proof/crefine/RISCV64/ADT_C.thy [hunk 31]
```diff
@@ -611,37 +601,32 @@ lemma cready_queues_to_H_correct:
   "\<lbrakk>cready_queues_relation (ksReadyQueues s) (ksReadyQueues_' ch);
     no_0_obj' s; ksReadyQueues_asrt s; pspace_aligned' s; pspace_distinct' s\<rbrakk>
    \<Longrightarrow> cready_queues_to_H (ksReadyQueues_' ch) = ksReadyQueues s"
-  apply (clarsimp simp: cready_queues_to_H_def cready_queues_relation_def Let_def)
-  apply (clarsimp simp: fun_eq_iff)
+  supply de_Morgan_conj[simp del]
```
Comment (corlewis) [inline proof/crefine/RISCV64/ADT_C.thy]: That's a bit concerning that you needed to remove that. It sort of suggests that we have some rules written in the wrong form.

File: proof/crefine/RISCV64/Tcb_C.thy [hunk 32]
```diff
@@ -407,67 +411,272 @@ lemma hrs_mem_update_cong:
...
+                   epPtr \<leftarrow> assert_opt (epBlocked ts);
+                   reorderEp epPtr t
+                od
+           else if is_BlockedOnNotification ts
+                then do g;
+                        ntfnPtr \<leftarrow> assert_opt (ntfnBlocked ts);
+                        reorderNtfn ntfnPtr t
+                     od
+                else g)"
+  by (cases ts; clarsimp simp: epBlocked_def ntfnBlocked_def)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Tcb_C.thy:555]: I feel like the ability to rephrase `case x of None => return () | Some y => f` into the assert_opt + bind version is a generic concept (does it not exist already)? Wouldn't you be able to use that concept to rewrite in `setPriority_ccorres` first, making `setPriority_thread_state_cases` shorter?

File: proof/crefine/RISCV64/Tcb_C.thy [hunk 33]
```diff
@@ -407,67 +411,272 @@ lemma hrs_mem_update_cong:
...
+   apply (rule_tac xf'=ret__unsigned_longlong_'
+               and val="thread_state_to_tsType ts"
+               and R="st_tcb_at' ((=) ts) t"
+                in ccorres_symb_exec_r_known_rv[where R'=UNIV])
+      apply (rule conseqPre, vcg)
+      apply (clarsimp simp: st_tcb_at'_def)
+      apply (frule (1) obj_at_cslift_tcb)
+      apply (clarsimp simp: typ_heap_simps ctcb_relation_thread_state_to_tsType)
+     apply ceqv
+    apply (rule ccorres_cond_both'[where Q=\<top> and Q'=\<top>])
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Tcb_C.thy:577]: section comments would be useful, reading the proof text I can't guess what the branches are

File: proof/crefine/RISCV64/Recycle_C.thy [hunk 34]
```diff
@@ -772,437 +729,210 @@ lemma ctcb_relation_blocking_ipc_badge:
...
+  unfolding cancelBadgedSends_def K_bind_apply haskell_assert_def
+  apply (rule ccorres_symb_exec_l'[OF _ _ stateAssert_sp]; (solves wpsimp)?)+
+  apply (rule ccorres_symb_exec_l'[OF _ _ get_ep_sp']; (solves wpsimp)?)
+  apply (rename_tac ep)
+  apply (cinit' lift: epptr_' badge___unsigned_long_')
+   apply (rule_tac xf'=ret__unsigned_longlong_'
+               and val="case epState ep of
+                            IdleEPState \<Rightarrow> scast EPState_Idle
+                          | ReceiveEPState \<Rightarrow> scast EPState_Recv
+                          | SendEPState \<Rightarrow> scast EPState_Send"
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Recycle_C.thy]: there's not a to_H function defined for the EP state? I have a feeling I've seen this case distinction in more than one place

File: proof/crefine/RISCV64/Recycle_C.thy [hunk 35]
```diff
@@ -772,437 +729,210 @@ lemma ctcb_relation_blocking_ipc_badge:
...
-   subgoal by (auto simp: isBlockedOnSend_def elim!: pred_tcb'_weakenE)
-  apply (rule conjI)
-   apply (clarsimp split: if_split)
-   apply (drule sym_refsD, clarsimp)
-   apply (fastforce simp: obj_at'_def projectKOs state_refs_of'_def pred_tcb_at'_def
-                          tcb_bound_refs'_def get_refs_def2
-                   dest!: symreftype_inverse')
-  apply fastforce
+  apply (frule (1) obj_at_cslift_ep)
+  apply (fastforce simp: typ_heap_simps)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Recycle_C.thy:937]: section markers would help again; remember we're going to have to go through and after arch-split update, do CRefine for AARCH64 where various other things might appear or disappear

File: proof/crefine/RISCV64/ADT_C.thy [hunk 36]
```diff
@@ -876,14 +851,23 @@ lemma cpspace_tcb_relation_unique:
...
-          apply (simp add: cthread_state_rel_imp_eq)
+          apply (insert rfs)
+          apply (simp only: cross_valid_tcbs'_def)
+          apply (rule cthread_state_rel_imp_eq)
+             apply (drule_tac x=p in spec)+
+             apply (drule_tac x=atcb' in spec)+
+             apply (fastforce simp: map_comp_def)
+            apply (drule_tac x=p in spec)+
+            apply (drule_tac x=atcb in spec)+
+            apply (fastforce simp: map_comp_def)
```
Comment (corlewis) [inline proof/crefine/RISCV64/ADT_C.thy:865]: It's hard to tell from just the proof text but is this working through the quantifiers in `cross_valid_tcbs'`? If it is, then maybe there could be a dest rule that wraps it up and makes it easier to use.

File: proof/crefine/RISCV64/TcbQueue_C.thy [hunk 37]
```diff
@@ -1350,30 +399,13 @@ lemma rf_sr_tcb_update_no_queue:
...
   by (simp add: cmachine_state_relation_def)
 
-lemmas rf_sr_tcb_update_no_queue2 =
-  rf_sr_obj_update_helper[OF rf_sr_tcb_update_no_queue, simplified]
-
-lemma tcb_queue_relation_not_in_q:
-  "ctcb_ptr_to_tcb_ptr x \<notin> set xs \<Longrightarrow>
-   tcb_queue_relation' nxtFn prvFn (hp(x := v)) xs start end
-    = tcb_queue_relation' nxtFn prvFn hp xs start end"
-  by (rule tcb_queue_relation'_cong, auto)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/TcbQueue_C.thy:1376]: glorious sea of red in this file, the queues rewrite pays off!

File: proof/crefine/RISCV64/ADT_C.thy (hunk 31 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/ADT_C.thy]: It makes more sense to make without this rule messing things up, but I can rework the proof a bit so that we don't need to remove it.

File: proof/crefine/RISCV64/ADT_C.thy (hunk 36 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/ADT_C.thy:865]: The problem with all of these uniqueness lemmas is that they have things like `map_to_tcbs` for the two Haskell states, and it messes with unification a lot. I can't get a nice dest rule working here.

File: proof/crefine/RISCV64/Syscall_C.thy (hunk 30 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Syscall_C.thy:1770]: I think it's correct as is. Because of the `λ_.`, we want the `and`s on the following lines to line up with the `(λs.` on the first line

File: proof/crefine/RISCV64/Finalise_C.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Finalise_C.thy:562]: given that it's a ccorres_symb_exec_l with two rules taking out two slots, `ccorres_symb_exec_l[OF ... get_ep_sp' getEndpoint_empty_fail, rotated ???]` or something like that might do it? I agree that the double-defer is yuck

File: proof/crefine/RISCV64/Tcb_C.thy (hunk 32 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Tcb_C.thy:555]: I don't think we can use `assert_opt` within `setPriority_ccorres` first. We can use `assert_opt` once we know that we have a particular thread state, but we don't want to be doing that when we're doing a case distinction on the thread state. It's a very strange function and I'm not sure we can make it nicer without having to rework some of its innards.

File: proof/crefine/RISCV64/Recycle_C.thy (hunk 34 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Recycle_C.thy]: I couldn't find one. Should I make one?

File: proof/crefine/RISCV64/Syscall_C.thy (hunk 30 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Syscall_C.thy:1770]: Oh right, I misread the bracketing, you're completely right!

File: proof/crefine/RISCV64/Recycle_C.thy (hunk 34 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Recycle_C.thy]: Would be nice. Then you can deploy them where you've got that split. I'd say "put it where the other to_H definitions are" but there doesn't seem any coherent place.

File: proof/crefine/RISCV64/ADT_C.thy (hunk 29 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/ADT_C.thy]: I know, but "while we're here".

File: proof/crefine/RISCV64/IpcCancel_C.thy [hunk 38]
```diff
@@ -2465,75 +2266,199 @@ lemma simp_list_case_return:
...
+   apply clarsimp
+   apply (drule (1) obj_at_cslift_ntfn, clarsimp)
+  apply simp
+  apply (rule hoare_complete')
+  apply (simp add: cnvalid_def nvalid_def)
+  done
+
+lemmas updateNotification_ccorres_lemma3 = updateNotification_ccorres_lemma4[where R=UNIV]
+
+lemmas updateNotification_ccorres_lemma2 = updateNotification_ccorres_lemma3[where P'=\<top>]
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/IpcCancel_C.thy:2321]: hehehehe, 3 comes before 2 (and 2 comes from 3?)

File: proof/crefine/RISCV64/ADT_C.thy (hunk 29 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/ADT_C.thy]: I've updated this one, but if we'd like to clean up others that I haven't touched, we should do a separate PR for cleanup.

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 38 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/IpcCancel_C.thy:2321]: Descending into hell.

File: proof/crefine/RISCV64/IpcCancel_C.thy [hunk 39]
```diff
@@ -2465,75 +2266,199 @@ lemma simp_list_case_return:
...
+         apply (vcg exspec=tcb_queue_empty_modifies)
+        apply (wpsimp wp: hoare_vcg_all_lift)
+       apply (vcg exspec=ntfn_ptr_set_queue_modifies)
+      apply (rule ccorres_add_return2)
+      apply (rule_tac r'=dc and xf'=xfdc in ccorres_split_nothrow)
+          apply (rule_tac P'="\<lambda>s. ntfn_at' ntfnPtr s \<and> pspace_canonical' s
+                                  \<and> tcb_queue_head_end_valid q' s"
+                      and Q="\<lambda>s ntfn. {s'. (s, s') \<in> rf_sr \<and> ko_at' ntfn ntfnPtr s
+                                           \<and> pspace_canonical' s \<and> tcb_queue_head_end_valid q' s}"
+                       in updateNotification_ccorres_lemma3[where P=\<top>])
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/IpcCancel_C.thy:2429]: I think this exact instantiation occurs three times, might be worth naming it. while the rest of the proof also looks like it has duplication, it doesn't seem so easy to resolve

File: proof/crefine/RISCV64/IpcCancel_C.thy [hunk 40]
```diff
@@ -3769,6 +3311,211 @@ lemma thread_state_to_tsType_eq_BlockedOnSend:
...
+   apply clarsimp
+   apply (drule (1) obj_at_cslift_ep, clarsimp)
+  apply simp
+  apply (rule hoare_complete')
+  apply (simp add: cnvalid_def nvalid_def)
+  done
+
+lemmas updateEndpoint_ccorres_lemma3 = updateEndpoint_ccorres_lemma4[where R=UNIV]
+
+lemmas updateEndpoint_ccorres_lemma2 = updateEndpoint_ccorres_lemma3[where P'=\<top>]
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/IpcCancel_C.thy:3377]: do you not find this countdown strange to read?

File: proof/crefine/RISCV64/IpcCancel_C.thy [hunk 41]
```diff
@@ -3769,6 +3311,211 @@ lemma thread_state_to_tsType_eq_BlockedOnSend:
...
+         apply (vcg exspec=tcb_queue_empty_modifies)
+        apply (wpsimp wp: hoare_vcg_all_lift)
+       apply (vcg exspec=ep_ptr_set_queue_modifies)
+      apply (rule ccorres_add_return2)
+      apply (rule_tac r'=dc and xf'=xfdc in ccorres_split_nothrow)
+          apply (rule_tac P'="\<lambda>s. ep_at' epPtr s \<and> pspace_canonical' s
+                                  \<and> tcb_queue_head_end_valid q' s"
+                      and Q="\<lambda>s endpoint. {s'. (s, s') \<in> rf_sr \<and> ko_at' endpoint epPtr s
+                                           \<and> pspace_canonical' s \<and> tcb_queue_head_end_valid q' s}"
+                       in updateEndpoint_ccorres_lemma3[where P=\<top>])
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/IpcCancel_C.thy:3483]: as before, same instantiation 3 times

File: proof/crefine/RISCV64/ADT_C.thy (hunk 29 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/ADT_C.thy]: Ah yes, that is what I meant. Thumbs up

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 42]
```diff
@@ -4719,48 +4714,44 @@ lemma time_after_ccorres:
...
+lemma no_ofail_compareVals:
+  "no_ofail (\<lambda>s. \<forall>ptr. ptrOpt = Some ptr \<longrightarrow> (\<exists>val. f ptr s = Some val)) (compareVals val ptrOpt f R)"
+  by (clarsimp simp: compareVals_def no_ofail_def obind_def split: if_splits option.splits)
 
 lemma find_time_after_ccorres:
   "ccorres (\<lambda>ptr ptr'. ptr' = option_to_ctcb_ptr ptr) ret__ptr_to_struct_tcb_C_'
-     ((ksReleaseQueue_asrt and valid_objs' and no_0_obj' and pspace_aligned' and pspace_distinct')
-      and (\<lambda>s. \<forall>tcbPtr. tcbPtrOpt = Some tcbPtr \<longrightarrow> (tcbInReleaseQueue |< tcbs_of' s) tcbPtr))
+     ((ksReleaseQueue_asrt and valid_objs' and no_0_obj'
+       and pspace_aligned' and pspace_distinct' and pspace_bounded')
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Ipc_C.thy]: how come the unusual parentheses? is it for the `is "ccorres ..."` below?

File: proof/crefine/RISCV64/Recycle_C.thy (hunk 34 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Recycle_C.thy]: I suppose it should be `epstate_to_C`. But I can use this to rewrite `cendpoint_state_relation`. Here it is

```
definition epstate_to_C :: "epstate ⇒ machine_word" where
  "epstate_to_C state ≡
     case state of
         IdleEPState ⇒ scast EPState_Idle
       | ReceiveEPState ⇒ scast EPState_Recv
       | SendEPState ⇒ scast EPState_Send"

definition cendpoint_state_relation :: "epstate ⇒ machine_word ⇒ bool" where
  "cendpoint_state_relation st cstate ≡ epstate_to_C st = cstate"
```

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 43]
```diff
@@ -5778,559 +5447,876 @@ lemma reply_push_ccorres:
...
+      apply clarsimp
+      apply (rule conjI)
+       apply fastforce
+      apply (fastforce simp: list_queue_relation_def queue_end_valid_def)
+     apply fastforce
+    apply (fastforce dest: heap_path_head ko_at'_threadRead
+                     simp: list_queue_relation_def queue_end_valid_def)
+   apply normalise_obj_at'
+   apply (fastforce dest: ko_at'_threadRead[where f=tcbPriority])
+  apply (fastforce dest: ko_at'_threadRead[where f=tcbPriority])
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Ipc_C.thy:5834]: another proof which could use some comment markers

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 40 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/IpcCancel_C.thy:3377]: Yes these lemmas are very annoying, and we have them for TCBs, sched contexts, replies, endpoints, and notifications. So you kind of get used to them, but with all the various schematics, they're still frustrating.

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 41 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/IpcCancel_C.thy:3483]: If we didn't already have a whole bunch of names with various numbers for the instantiations, I'd go ahead and make one. But maybe making another one would just be confusing things more.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 42 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy]: Yep this collects together the loop invariants.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 44]
```diff
@@ -5778,559 +5447,876 @@ lemma reply_push_ccorres:
...
+                                                   \<and> obj_at' (\<lambda>tcb. tcbSchedContext tcb = scOptDest)
+                                                             (the (tcbQueueHead (epQueue ep))) s
+                                                   \<and> obj_at' (\<lambda>tcb. tcbFault tcb = ft) thread s
+                                                   \<and> tcb_queue_head_end_valid (epQueue ep) s
+                                                   \<and> valid_bound_reply' (replyObject recvState) s
+                                                   \<and> valid_objs' s \<and> no_0_obj' s
+                                                   \<and> weak_sch_act_wf (ksSchedulerAction s) s
+                                                   \<and> ksCurDomain s \<le> maxDomain
+                                                   \<and> pspace_aligned' s \<and> pspace_distinct' s
+                                                   \<and> pspace_bounded' s \<and> pspace_canonical' s"
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Ipc_C.thy:6247]: these post_imps are very repetitive; I think the first two are the same, and then the third one has a `pspace_canonical' s` added? This section of this proof doesn't have much commentary, but it feels like this should be compressible somehow. If not, at least some comments saying what's going would help (e.g. why is pspace_canonical appearing on iteration 3?).

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 45]
```diff
@@ -5778,559 +5447,876 @@ lemma reply_push_ccorres:
...
+      and st_tcb_at' simple' thread and ep_at' epptr)
+     (\<lbrace>\<acute>blocking = from_bool blocking\<rbrace>
+      \<inter> \<lbrace>\<acute>do_call = from_bool do_call\<rbrace>
+      \<inter> \<lbrace>\<acute>badge___unsigned_long = badge\<rbrace>
+      \<inter> \<lbrace>\<acute>canGrant = from_bool canGrant\<rbrace>
+      \<inter> \<lbrace>\<acute>canGrantReply = from_bool canGrantReply\<rbrace>
+      \<inter> \<lbrace>\<acute>canDonate = from_bool canDonate\<rbrace>
+      \<inter> \<lbrace>\<acute>thread = tcb_ptr_to_ctcb_ptr thread\<rbrace>
+      \<inter> \<lbrace>\<acute>epptr = Ptr epptr\<rbrace>
+      \<inter> \<lbrace>badge && mask 64 = badge\<rbrace>) hs
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Ipc_C.thy]: what's the 64? wrap or comment

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 46]
```diff
@@ -6998,468 +6945,669 @@ lemma maybeReturnSchedContext_ccorres:
...
+        apply (clarsimp simp: typ_heap_simps' rf_sr_tcb_update_twice cap_get_tag_isCap
+                        simp flip: canonical_bit_def)
+        apply (erule(1) rf_sr_tcb_update_gen, (simp add: typ_heap_simps)+)
+         apply (simp add: tcb_cte_cases_def cteSizeBits_def)
+        apply (simp add: ctcb_relation_def cthread_state_relation_def)
+        apply (intro conjI impI allI)
+         apply (clarsimp simp: canonical_address_sign_extended sign_extended_iff_sign_extend)
+        apply (clarsimp simp: option_to_0_def)
+        apply (cases replyOpt; clarsimp)
+        apply (prop_tac "ptr_val (replyPtr_' s') = ptr_val (replyPtr_' s') && ~~ mask 4")
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Ipc_C.thy:6980]: mask 4 here too

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 47]
```diff
@@ -6998,468 +6945,669 @@ lemma maybeReturnSchedContext_ccorres:
...
+                               in ccorres_cond_both'[where Q'=\<top>])
+                    apply (fastforce simp: option_to_ptr_def option_to_0_def split: option.splits)
+                   apply (ctac add: maybeReturnSchedContext_ccorres)
+                  apply (rule ccorres_return_Skip)
+                 apply ceqv
+                apply (rule_tac xf'=ret__unsigned_longlong_'
+                            and val="case epState ep of
+                                         IdleEPState \<Rightarrow> scast EPState_Idle
+                                       | ReceiveEPState \<Rightarrow> scast EPState_Recv
+                                       | SendEPState \<Rightarrow> scast EPState_Send"
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Ipc_C.thy]: this looks like a from_H analogue to a to_H, might be worth considering a definition although I only recall seeing this direction once so far

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 48]
```diff
@@ -6998,468 +6945,669 @@ lemma maybeReturnSchedContext_ccorres:
...
+                                          in hoare_post_imp)
+                              apply (clarsimp simp: pred_tcb_at'_def obj_at'_def split: if_split)
+                             apply wpsimp
+                            apply (vcg exspec=doIPCTransfer_modifies)
+                           apply (vcg exspec=thread_state_ptr_get_blockingIPCCanGrantReply_modifies)
+                          apply (vcg exspec=thread_state_ptr_get_blockingIPCCanGrant_modifies)
+                         apply (vcg exspec=thread_state_ptr_get_blockingIPCBadge_modifies)
+                        apply wpsimp
+                       apply (wpsimp wp: gts_wp')
+                      apply wpsimp
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Ipc_C.thy:7509]: this proof needs markers to follow what's going on; it's clearly going through a bunch of chunks but I am unable to follow what they are

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 49]
```diff
@@ -7621,610 +7775,443 @@ lemma sendSignal_ccorres[corres]:
...
+                   apply (rule ccorres_cond[where R=\<top>])
+                     apply (fastforce simp: to_bool_def)
+                    apply (ctac (no_vcg) add: possibleSwitchTo_ccorres)
+                   apply (rule ccorres_return_Skip)
+                  apply ceqv
+                 apply (clarsimp simp: ifCondRefillUnblockCheck_def)
+                 apply (rule ccorres_pre_threadGet)
+                 apply (rule ccorres_move_c_guard_tcb)
+                 apply (clarsimp simp: when_def)
+                 apply (rule ccorres_if_lhs)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Ipc_C.thy:7840]: I'm lost. the old proof had comments about waiting case etc. In this one, I don't know what the steps/branches are

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 17 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Ipc_C.thy:8053]: Would definitely be nicer to review the tech and the improvement it represents separately from this PR.

There was some discussion on mattermost, I suggested "something like `ccorres_symb_exec_l_pre`
which is kinda long, but describes what it intends (preliminary execution of easy stuff on the left). We can probably abbreviate it to `ccorres_exec_l_pre` since we are extremely unlikely to have any other form of execution"

Also discussion yielded that `ccorres_symb_exec_l'[OF _ _ X]` can't take a set for X, but with suitable rotation something like `X[THEN ccorres_symb_exec_l']` might work.

File: proof/crefine/RISCV64/Recycle_C.thy (hunk 34 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Recycle_C.thy]: Yes, you're right. I am shuddering to now discover that there is both a `to_C` and `from_H` naming scheme in CRefine. I think `to_C` is the more modern one. Tuning the state relation like that looks good!
Somewhere else I pointed out what I thought was the inverse function's cases, but I am a bit unsure now if it was the inverse, or whether it's another instance of this one. Apologies for confusion.

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 41 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/IpcCancel_C.thy:3483]: You could use `notes` to confine it to only the one lemma, using something other than numbers, i.e.
```
lemma foo:
  notes moo = refl[of True] (* the local instantiation or common part of it *)
  shows "True = True"
  apply (rule moo)
  done
```

File: proof/crefine/RISCV64/ADT_C.thy (hunk 23 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/ADT_C.thy]: Moved to `Wellformed_C`

File: proof/crefine/RISCV64/Tcb_C.thy (hunk 26 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Tcb_C.thy]: I've put these, as well some lemmas for `sch_act_simple` into `Invariants_H`. I did have to move `weak_sch_act_wf`'s definition from `TcbAcc_R` to `Invariants_H`, but I suppose by now, `Invariants_H` is the better place for it.

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 41 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/IpcCancel_C.thy:3483]: This particular instantiation is used in more than one proof, so I'm not sure what to do. Should I make a `lemma2'`? I think it would just be making things worse.

File: proof/crefine/RISCV64/Refine_C.thy [hunk 50]
```diff
@@ -999,6 +977,90 @@ lemma check_active_irq_corres_C:
...
+  done
+
+lemma cross_valid_ntfns'_cross:
+  "\<lbrakk>(s, s') \<in>state_relation; ntfn_queues_blocked s;
```
Comment (corlewis) [inline proof/crefine/RISCV64/Refine_C.thy]:
```suggestion
  "\<lbrakk>(s, s') \<in> state_relation; ntfn_queues_blocked s;
```

Comment (corlewis) [reply proof/crefine/RISCV64/Refine_C.thy]: And same for `cross_valid_eps'_cross` and `cross_valid_objs'_cross`

File: proof/crefine/RISCV64/IpcCancel_C.thy [hunk 51]
```diff
@@ -3769,6 +3311,211 @@ lemma thread_state_to_tsType_eq_BlockedOnSend:
    \<Longrightarrow> thread_state_to_tsType ts = scast ThreadState_BlockedOnSend"
   by (cases ts, simp_all add: ThreadState_defs)
 
+lemma updateEndpoint_eq:
+  "\<lbrakk>ko_at' ep epPtr s\<rbrakk>
+   \<Longrightarrow> ((), s\<lparr>ksPSpace := (ksPSpace s)(epPtr \<mapsto> injectKO (f ep))\<rparr>)
+       \<in> fst (updateEndpoint epPtr f s)"
```
Comment (corlewis) [inline proof/crefine/RISCV64/IpcCancel_C.thy:3317]: Out of curiosity, why `_eq` for the name?

File: proof/crefine/RISCV64/Tcb_C.thy (hunk 26 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Tcb_C.thy]: Thanks, moving the definition up in `Refine` makes sense as well! For maximum tidiness I guess the lemmas should go into `InvariantUpdates_H`, but there's still lots of other update lemmas in `Invariants_H` so that isn't a big deal.

File: proof/crefine/RISCV64/Finalise_C.thy [hunk 52]
```diff
@@ -3288,6 +3181,10 @@ lemma schedContext_unbindReply_ccorres:
   apply (fastforce simp: valid_sched_context'_def)
   done
 
+lemma sch_act_simple_weak_sch_act_wf:
+  "sch_act_simple s \<Longrightarrow>  weak_sch_act_wf (ksSchedulerAction s) s"
```
Comment (corlewis) [inline proof/crefine/RISCV64/Finalise_C.thy]: You might have already done this one, but if not it's another candidate to move to `Refine`.

Comment (corlewis) [reply proof/crefine/RISCV64/Finalise_C.thy]: And I think could be marked `[elim!]`

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 42 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Ipc_C.thy]: Could be worth a comment, otherwise one of us is going to come across this in the future and think we're being smart by trying to remove the brackets.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 45 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy]: This can be removed, actually. I should have realised when I updated the helper lemma where this presumably came from.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 53]
```diff
@@ -5778,559 +5447,876 @@ lemma reply_push_ccorres:
...
+  apply (force dest!: heap_ls_next_in_list simp: list_queue_relation_def obj_at'_def opt_map_red)
+  done
+
+lemma tcbAppend_ccorres[corres]:
+  "ccorres ctcb_queue_relation ret__struct_tcb_queue_C_'
+     (valid_objs' and pspace_canonical' and tcb_at' tcbPtr)
+     (\<lbrace>\<acute>tcb = tcb_ptr_to_ctcb_ptr tcbPtr\<rbrace> \<inter> \<lbrace>ctcb_queue_relation q \<acute>queue\<rbrace>) hs
+     (tcbAppend tcbPtr q) (Call tcbAppend_'proc)"
+  supply Collect_const[simp del]
+  unfolding tcbAppend_def  orderedInsert_def K_bind_apply
```
Comment (corlewis) [inline proof/crefine/RISCV64/Ipc_C.thy]:
```suggestion
  unfolding tcbAppend_def orderedInsert_def K_bind_apply
```

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 54]
```diff
@@ -6998,468 +6945,669 @@ lemma maybeReturnSchedContext_ccorres:
...
+      apply clarsimp
+      apply (ctac add: scheduleTCB_ccorres)
+     apply wpsimp
+    apply (clarsimp simp: guard_is_UNIV_def)
+   apply (clarsimp simp: obj_at'_is_canonical)
+  apply clarsimp
+  done
+
+lemma ep_SendEPState_split:
+  "(case epState ep of SendEPState \<Rightarrow> f | _ \<Rightarrow> g) = (if epState ep = SendEPState then f else g)"
```
Comment (corlewis) [inline proof/crefine/RISCV64/Ipc_C.thy:7000]: I think there's a few rules being added like this. Is there nothing more abstract that can be done or a more generic split rule that can be used? It might not be quite what you want but is `EPState.case_eq_if` useful at all?

**Review by corlewis — APPROVED** [review]
Like others have said, great job getting all of this to come together so nicely! It's very nice to see so much able to be removed here and thanks for all of the cleanup you've done along the way!

File: proof/crefine/RISCV64/Tcb_C.thy (hunk 26 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Tcb_C.thy]: Oh I do mean the lemmas in `InvariantUpdates_H`

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 42 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy]: I’m not going to do that.

Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy]: Turns out the stupid matching doesn't even work as I intended, so I'll just remove it. The `is ""` is often more of a nuisance than anything.

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 51 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/IpcCancel_C.thy:3317]: Just to blend in with the original `threadSet_eq` and its analogues for the other kernel objects, which are always `updateSchedContext_eq`, `updateReply_eq`, etc. They use `getObject_eq`, and there's also a `setObject_eq`, though I don't know why they use `_eq` in their names either.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 54 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy:7000]: I couldn't find `EPState.case_eq_if`, and while there is `endpoint.case_eq_if`, I'm not sure that will work. 

It's a bit of a tradeoff with these special split rules. They're a bit of a nuisance to state and to have several variants of, but they do reduce duplication in the proofs considerably. I thought this was the better choice to make overall.

Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy:7000]: Oh and because `SendEPState` is a constructor in the case expression (it says notation: pattern "case") I don't think it can be made more general, unfortunately.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 44 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy:6247]: Actually, one of these can be removed very easily, and the two that remain aren't so similar. I can't see a nice way of improving it further.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 49 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy:7840]: This does have idle/active/waiting markers in it. Except now in MCS, there are excruciatingly long blocks where we call all sorts of fun functions like `maybeDonateSc` and `refillIUnblockCheck`. This occurs in both idle and waiting branches, though there doesn't seem to be a nice way to consolidate the branches.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 55]
```diff
@@ -5778,559 +5448,862 @@ lemma reply_push_ccorres:
...
-         apply (clarsimp simp: carch_state_relation_def packed_heap_update_collapse_hrs)
-        apply (simp add: cmachine_state_relation_def)
-       apply (simp add: typ_heap_simps')
-      apply (simp add: objBits_simps')
-     apply (simp add: objBits_simps)
-    apply assumption
-   apply (clarsimp simp: cendpoint_relation_def Let_def tcb_queue_relation'_def)
-  \<comment> \<open>non-empty case\<close>
+    apply (prop_tac "epptr = epptr AND NOT (mask 4)")
+                    \<comment> \<open>this magic number 4 is coming from thread_state_ptr_set_tsType_spec\<close>
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: Is this really true? We're making an epptr here and we're doing a `AND NOT (mask ..)`, which is an alignment constraint, not a size constraint. This does not look like it is coming out of thread_state.

(This is the one I was thinking about for epSizeBits)

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 56]
```diff
@@ -5038,153 +5171,17 @@ lemma ccorres_getCTE_cte_at:
...
+                    (\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s) and no_0_obj' and
                     pspace_aligned' and pspace_distinct' and
                     K (bos = ThreadState_BlockedOnSend
                       \<and> epptr' = epptr \<and> badge' = badge
                       \<and> cg = from_bool canGrant \<and> cgr = from_bool canGrantReply
                       \<and> dc' = from_bool do_call) and
-                    K (epptr = epptr && ~~ mask 4) and
-                    K (badge = badge && mask 64))
+                    K (epptr = epptr && ~~ mask 4))
+                            \<comment> \<open>this magic number 4 is coming from thread_state_ptr_set_tsType_spec\<close>
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: same here, I don't think this comes out of thread_state. It might be an ep_ptr that was stored in a thread state before, but the constraint would not be from `tsType`.

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 55 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/Ipc_C.thy]: I thought these were coming out of the helper lemmas for `setThreadState`. I'll double check

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 54 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Ipc_C.thy:7000]: Yes, I don't think you can write a general rule about this (because of how `case` works). You could make a plugin for the datatype package to prove such rules automatically, but that's about as good as you can get I think.

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 40 above)
Comment (lsf37) [reply proof/crefine/RISCV64/IpcCancel_C.thy:3377]: I think the question was more why is 3 coming before 2 :-)

File: proof/crefine/RISCV64/Ipc_C.thy (hunk 55 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Ipc_C.thy]: It might still come out of a thread_state if the ep_ptr was stored in the thread state. But in that case the alignment constraint would be from tsSize, but from whatever field stored the pointer (and in that case epSizeBits would be the right one to use, even that's not a name from C)

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 40 above)
Comment (michaelmcinerney) [reply proof/crefine/RISCV64/IpcCancel_C.thy:3377]: I have no idea what the person who wrote the original `threadSet_corres_lemma4/3/2` was thinking. Maybe they thought that the higher numbers are more specialised and would be used less often. But then there's no `1` or lemma without a number, so I really don't know.

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 57]
```diff
@@ -5265,6 +5265,7 @@ lemma setThreadStateBlockedOnReply_ccorres:
           apply (simp add: tcb_cte_cases_def cteSizeBits_def)
          apply (simp add: ctcb_relation_def cthread_state_relation_def)
          apply (prop_tac "replyPtr = replyPtr && ~~ mask 4")
+                            \<comment> \<open>this magic number 4 is coming from thread_state_ptr_set_tsType_spec\<close>
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: also unlikely to be from thread_state_ptr_set_tsType_spec (but maybe another thread state lemmas). In this case it'd be something about the size of replies (because it's against an alignment constraint).

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 58]
```diff
@@ -6986,10 +6974,12 @@ lemma receiveIPC_block_ccorres_helper:
          apply (simp add: tcb_cte_cases_def cteSizeBits_def)
         apply (simp add: ctcb_relation_def cthread_state_relation_def)
         apply (intro conjI impI allI)
-         apply (clarsimp simp: canonical_address_sign_extended sign_extended_iff_sign_extend)
+         apply (clarsimp simp: canonical_address_sign_extended sign_extended_iff_sign_extend
+                               objBits_simps')
         apply (clarsimp simp: option_to_0_def)
         apply (cases replyOpt; clarsimp)
         apply (prop_tac "ptr_val (replyPtr_' s') = ptr_val (replyPtr_' s') && ~~ mask 4")
+                        \<comment> \<open>this magic number 4 is coming from thread_state_ptr_set_tsType_spec\<close>
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: (same as above)

File: proof/crefine/RISCV64/Ipc_C.thy [hunk 59]
```diff
@@ -7937,6 +7933,7 @@ lemma receiveSignal_block_ccorres_helper:
      (tcb_at' thread and valid_objs' and ntfn_at' ntfnptr and pspace_canonical'
       and (\<lambda>s. weak_sch_act_wf (ksSchedulerAction s) s) and no_0_obj'
       and pspace_aligned' and pspace_distinct' and K (ntfnptr = ntfnptr && ~~ mask 4))
+                            \<comment> \<open>this magic number 4 is coming from thread_state_ptr_set_tsType_spec\<close>
```
Comment (lsf37) [inline proof/crefine/RISCV64/Ipc_C.thy]: for this one we should use ntfnSizeBits

File: proof/crefine/RISCV64/IpcCancel_C.thy (hunk 40 above)
Comment (lsf37) [reply proof/crefine/RISCV64/IpcCancel_C.thy:3377]: It's Ok, let's leave these for a later cleanup. I think at that point, the numbers don't really mean anything any more apart from "one more variant".

**Review by Xaphiosis — APPROVED** [review]
The queue overhaul worked out. Big thumbs up.
